US05693636
a) methyl 4-pent-4-enyl-benzoate
A mixture of dry Mg (900 mg, 37 mmol) and ZnBr2 (5.63 g, 25 mmol) in THF (25 mL) was treated with 5-bromopent-1-ene (4.45 mL, 37.6 mmol) and the subsequent suspension was heated at 56° C. for 18 h. The mixture was cooled to room temperature and methyl 4-bromobenzoate (7.1 g, 33 mmol) and tetrakis-(triphenylphosphine)palladium(0) (1.0 g, 0.865 mmol) were added, and the mixture was stirred at room temperature for 24 h. The mixture was quenched with 3N HCl (aqueous) and extracted with ethyl acetate. The combined organic extracts were dried over anhydrous MgSO4 and evaporated at reduced pressure. The residue was purified by flash chromatography (silica gel, 5% ethyl acetate/hexane) to give the crude title compound which was used without further purification.

reactant | 5-bromopent-1-ene | 37.6 mmol, 4.45 mL | BrCCCC=C | C5H9Br
reactant | methyl 4-bromobenzoate | 33 mmol, 7.1 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | ZnBr2 | 25 mmol, 5.63 g | [Zn+2].[Br-].[Br-]
product | methyl 4-pent-4-enyl-benzoate | C(CCC=C)C1=CC=C(C(=O)OC)C=C1 | C13H16O2
